US07534788B2
Step 2: 4-Chloro-2-(1-hydroxy-2-methyl-propyl)-5-methoxy-phenol
The above prepared 5-chloro-2-hydroxy-4-methoxy-benzaldehyde (0.845 g, 4.53 mmol) was dissolved in 10 mL of abs. THF and treated at −15° C. with iPrMgCl (4.98 mL of 2M [THF], 2.2 eq.) and the mixture kept at this temperature for 0.5 h. Careful pouring onto crashed ice/NH4Cl, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents left 1.090 g of the title compound as light brown oil, almost perfectly pure according to TLC and NMR.

reactant | 5-chloro-2-hydroxy-4-methoxy-benzaldehyde | 4.53 mmol, 0.845 g | ClC=1C(=CC(=C(C=O)C1)O)OC | C8H7ClO3
reactant | iPrMgCl | 2M, 4.98 mL, 2.2 eq. | C(C)(C)[Mg]Cl
solvent | THF | C1CCOC1 | C4H8O
product | 4-Chloro-2-(1-hydroxy-2-methyl-propyl)-5-methoxy-phenol | ClC1=CC(=C(C=C1OC)O)C(C(C)C)O | C11H15ClO3
